US09340527B2
6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoxaline
Triphenylphosphine (0.6988 g, 0.002664 mol) was added to a solution of 6-bromo-quinoxalin-2-ol (0.4283 g, 0.001903 mol) and (1s,4s)-4-(tert-butyl)cyclohexanol (0.4164 g, 0.002664 mol) in tetrahydrofuran (20 mL, 0.2 mol). The mixture was cooled in an ice/water bath and diisopropyl azodicarboxylate (0.5246 mL, 0.002664 mol) was slowly added. The mixture was stirred for 96 hours, allowing to reach room temperature. The reaction mixture was then diluted in ethylacetate and washed with water, then brine. The organic layer was dried over MgSO4, filtered, concentrated under reduced pressure and purified by flash chromatography (24 g SiO2 column; 0-20% ethylacetate in heptane eluent) to give the title compound. ESI-MS (M+H+): 365

reactant | Triphenylphosphine | 0.002664 mol, 0.6988 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 6-bromo-quinoxalin-2-ol | 0.001903 mol, 0.4283 g | BrC=1C=C2N=CC(=NC2=CC1)O | C8H5BrN2O
reactant | tetrahydrofuran | 0.2 mol, 20 mL | O1CCCC1 | C4H8O
reactant | diisopropyl azodicarboxylate | 0.002664 mol, 0.5246 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoxaline | BrC=1C=C2N=CC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C18H23BrN2O
